US08242104B2
Fresh ethyl magnesium bromide in ethyl ether (3.0 M 1.1 mL) was added dropwise to a suspension of methyl 2,3-diiodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (1.1 g, 2.2 mmol) in THF at −15° C. The mixture was stirred and monitored using LC/MS. After 1 hour, there was no remaining starting material and the reaction was poured into sat. NH4Cl and extracted with EtOAc. The organic extracts were washed with water, brine, dried over MgSO4 and concentrated. At the end of this process, 0.7 g (80%) of methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate was obtained.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | methyl 2,3-diiodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 2.2 mmol, 1.1 g | IC=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1I | C13H10I2N2O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl ether | 3.0 M, 1.1 mL | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 0.7 g, 80% | IC=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1 | C13H11IN2O3
